US04518596
8-Isopropylthio-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-isopropylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 132°-134° C.) and piperazine.

reactant | 2-chloro-8-isopropylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC(C)C)N2CCOCC2 | C13H16ClN5OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Isopropylthio-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C)(C)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C17H25N7OS
